US07307076B2
a) N-(3-acetyl-5-benzyloxy-2-hydroxy-phenyl)-2-bromo-2-methyl-propionamide
4.64 g (25 mmol) 2-bromo-2-methyl-propionyl chloride are added dropwise at 5 to 20° C. to a solution of 5.15 g (20 mmol) 1-(3-amino-5-benzyloxy-2-hydroxy-phenyl)-ethanone in 20 mL pyridine. After the addition has ended the mixture is stirred for 15 minutes, combined with ice water and 100 mL ethyl acetate and acidified with conc. hydrochloric acid. The organic phase is separated off, washed with water and dried with sodium sulphate. After the solvent has been distilled off the residue is crystallised from a diethyl ether/petroleum ether mixture.

reactant | 2-bromo-2-methyl-propionyl chloride | 25 mmol, 4.64 g | BrC(C(=O)Cl)(C)C | C4H6BrClO
reactant | 1-(3-amino-5-benzyloxy-2-hydroxy-phenyl)-ethanone | 20 mmol, 5.15 g | NC=1C(=C(C=C(C1)OCC1=CC=CC=C1)C(C)=O)O | C15H15NO3
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-acetyl-5-benzyloxy-2-hydroxy-phenyl)-2-bromo-2-methyl-propionamide | C(C)(=O)C=1C(=C(C=C(C1)OCC1=CC=CC=C1)NC(C(C)(C)Br)=O)O | C19H20BrNO4
